US08492378B2
methyl 4-nitro-3-[[3-(trifluoromethoxy)phenyl]amino]benzoate
A solution of methyl 3-fluoro-4-nitrobenzoate (4.66 g, 23.4 mmol), 3-trifluoromethoxyaniline (4.98 g, 28.1 mmol) and N,N-diisopropylethylamine (4.84 mL, 28.1 mmol) in dimethyl sulfoxide (30 mL) was stirred at 120° C. overnight. The reaction mixture was diluted with ethyl acetate, washed with water and saturated brine, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was recrystallized from hexane/tetrahydrofuran to give the title compound (2.90 g, yield 35%) as red crystals.

reactant | methyl 3-fluoro-4-nitrobenzoate | 23.4 mmol, 4.66 g | FC=1C=C(C(=O)OC)C=CC1[N+](=O)[O-] | C8H6FNO4
reactant | 3-trifluoromethoxyaniline | 28.1 mmol, 4.98 g | FC(OC=1C=C(N)C=CC1)(F)F | C7H6F3NO
reactant | N,N-diisopropylethylamine | 28.1 mmol, 4.84 mL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | dimethyl sulfoxide | 30 mL | CS(=O)C | C2H6OS
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | methyl 4-nitro-3-[[3-(trifluoromethoxy)phenyl]amino]benzoate | 2.90 g, yield 35% | [N+](=O)([O-])C1=C(C=C(C(=O)OC)C=C1)NC1=CC(=CC=C1)OC(F)(F)F | C15H11F3N2O5
